US08349860B2
A solution of tert-butyl 3-fluoro-4-iodophenylcarbamate (500 mg, 1.48 mmol) and 4-(tributylstannyl)thiazole (0.578 mL, 1.80 mmol) in dioxane (6 mL) was degassed with Ar before being charged with Pd(Ph3P)4 (170 mg, 0.147 mmol). It was stirred at 100 C for 34 h, then concentrated in vacuo. The residue was loaded to a flash column, eluted with 0-25% EtOAc in hexane to give tert-butyl 3-fluoro-4-(thiazol-4-yl)phenylcarbamate (270 mg). MS 295.3 (M+H)

reactant | tert-butyl 3-fluoro-4-iodophenylcarbamate | 1.48 mmol, 500 mg | FC=1C=C(C=CC1I)NC(OC(C)(C)C)=O | C11H13FINO2
reactant | 4-(tributylstannyl)thiazole | 1.80 mmol, 0.578 mL | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.147 mmol, 170 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-fluoro-4-(thiazol-4-yl)phenylcarbamate | 270 mg | FC=1C=C(C=CC1C=1N=CSC1)NC(OC(C)(C)C)=O | C14H15FN2O2S
